US08110581B2
2-Cyclohexyl-7-(piperidin-1-ylcarbonyl)-2,7-diazaspiro[4.5]decan-1-one
To a solution of 2-cyclohexyl-2,7-diazaspiro[4.5]decan-1-one hydrochloride (20 mg, 0.00007 mol) in methylene chloride (0.5 mL, 0.008 mol) was added N,N-diisopropylethylamine (14.0 μL, 0.0000806 mol) and the solution was stirred at rt for 5 min. prior to the addition of N,N-carbonyldiimidazole (24 mg, 0.00015 mol). After stirring the reaction mixture at rt for 3 h, piperidine (6.2 mg, 0.00007 mol) was added and stirring was continued for 12 h. To drive the reaction to completion the mixture was heated at 170° C. under microwave irradiation for 1 h. The crude mixture was purified by prep.-HPLC to afford the desired product. LC-MS: 348.2 (M+H)+.

reactant | 2-cyclohexyl-2,7-diazaspiro[4.5]decan-1-one hydrochloride | 0.00007 mol, 20 mg | Cl.C1(CCCCC1)N1C(C2(CC1)CNCCC2)=O
reactant | methylene chloride | 0.008 mol, 0.5 mL | C(Cl)Cl | CH2Cl2
reactant | N,N-diisopropylethylamine | 0.0000806 mol, 14.0 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-carbonyldiimidazole | 0.00015 mol, 24 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | piperidine | 0.00007 mol, 6.2 mg | N1CCCCC1 | C5H11N
product | 2-Cyclohexyl-7-(piperidin-1-ylcarbonyl)-2,7-diazaspiro[4.5]decan-1-one | C1(CCCCC1)N1C(C2(CC1)CN(CCC2)C(=O)N2CCCCC2)=O | C20H33N3O2
